US07635715B2
Step F: Preparation of N-((7-Fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (703 mg, 1.73 mmol) was stirred in TFA (2 mL, 26.9 mmol) at room temperature for 25 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as an off-white solid (237 mg). MS (m/e)=350.1 (M+H)+. Calculated for C18H16F3NO6 349.10.

reactant | 1,1-Dimethylethyl N-((7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 1.73 mmol, 703 mg | FC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24FNO6
reactant | TFA | 26.9 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 237 mg | FC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)O)O | C17H16FNO6
